US08202885B2
To a solution of 0.8 g of rac-(1R*,4R*)-spiro[bicyclo[2.2.2]octane-2,2′-[1,3]dioxolan]-5-one (A1.2) and 3.16 g of 2,5-di-tert.-butyl-4-methylpyridine in 25 mL of DCM, 1.1 mL of trifluoromethanesulfonic acid anhydride was added at 0° C. After stirring for 2 h at 0° C. and at rt overnight the reaction mixture was filtered and the solvent was evaporated to give rac-trifluoro-methanesulfonic acid (1R*,4R*)-5-oxo-bicyclo[2.2.2]oct-2-en-2-yl ester. The crude material was used without purification.

reactant | rac-(1R*,4R*)-spiro[bicyclo[2.2.2]octane-2,2′-[1,3]dioxolan]-5-one | 0.8 g | O1C2(OCC1)C1CC(C(C2)CC1)=O | C10H14O3
reactant | 2,5-di-tert.-butyl-4-methylpyridine | 3.16 g | C(C)(C)(C)C1=NC=C(C(=C1)C)C(C)(C)C | C14H23N
reactant | trifluoromethanesulfonic acid anhydride | 1.1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | rac-trifluoro-methanesulfonic acid (1R*,4R*)-5-oxo-bicyclo[2.2.2]oct-2-en-2-yl ester | O=C1[C@H]2C=C([C@@H](C1)CC2)OS(=O)(=O)C(F)(F)F | C9H9F3O4S
